US07834051B2
2-chloro-4-[(2S,3R)-3-cyclopropyl-3-hydroxy-2-methyl-5-oxopyrrolidin-1-yl]benzonitrile
Using 4-bromo-2-chlorobenzonitrile (424 mg), (4R,5S)-4-cyclopropyl-4-hydroxy-5-methylpyrrolidin-2-one (350 mg), 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (166 mg), tris(dibenzylideneacetone)dipalladium(0) (86 mg) and cesium carbonate (902 mg), and in the same manner as in Example 62, the title compound was obtained as a white powder (yield: 58 mg, 11%).

reactant | 4-bromo-2-chlorobenzonitrile | 424 mg | BrC1=CC(=C(C#N)C=C1)Cl | C7H3BrClN
reactant | (4R,5S)-4-cyclopropyl-4-hydroxy-5-methylpyrrolidin-2-one | 350 mg | C1(CC1)[C@@]1(CC(N[C@H]1C)=O)O | C8H13NO2
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 166 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
reactant | cesium carbonate | 902 mg | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 86 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-chloro-4-[(2S,3R)-3-cyclopropyl-3-hydroxy-2-methyl-5-oxopyrrolidin-1-yl]benzonitrile | ClC1=C(C#N)C=CC(=C1)N1[C@H]([C@](CC1=O)(O)C1CC1)C | C15H15ClN2O2
